US06818783B2
One mole of diethyldichlorosilane can be dissolved in one liter of tetrahydrofuran, or similar solvent, under an atmosphere of nitrogen, and one mole of lithium dimethylamide can be slowly added with stirring over a one hour period, then stirred overnight. All of the volatiles can be vacuum transferred off and fractionally distilled to yield the product, dimethylaminodiethylchlorosilane. This product can be dissolved in tetrahydrofuran, or similar solvent, under a nitrogen atmosphere. One mole of water can be dissolved in 100 ml of tetrahydrofuran, or similar solvent, and can be added slowly over a one hour period at zero degrees centigrade. The resulting mixture can be filtered, and the filtrate fractionally distilled to give the product, dimethylaminodiethylsilanol. One equivalent of this product can be dissolved in tetrahydrofuran, or in a similar solvent, and treated with one equivalent of n-butyl lithium solution. The mixture can be cooled to zero degrees centigrade, and one equivalent of copper chloride can be added over 30 minutes. The mixture would be allowed to warm to room temperature, filtered, solvent stripped away, and the resulting mixture can be heated under vacuum to distill out the product, [Cu—NMe2-SiEt2-O—Cu—NMe2-SiEt2-O—Cu—].

reactant | diethyldichlorosilane | One mole | C(C)[Si](Cl)(Cl)CC | C4H10Cl2Si
reactant | lithium dimethylamide | one mole | C[N-]C.[Li+]
solvent | tetrahydrofuran | one liter | O1CCCC1 | C4H8O
product | dimethylaminodiethylchlorosilane | CN(C)[Si](Cl)(CC)CC | C6H16ClNSi
